*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/3.30e-01[uF]/10[V]
* Murata P/N :GRM155B31A334KE14
* Property : C = 3.30e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B31A334KE14 Port1 Port2
C01 Port1 N01 3.17e-07
R01 Port1 N01 1.52e+08
L02 N01 N02 2.16e-10
R03 N02 N03 1.37e-02
C04 N03 N04 2.64e-05
R04 N03 N04 1.51e+02
C05 N04 N05 4.06e-05
R05 N04 N05 1.62e+01
C06 N05 N06 4.07e-05
R06 N05 N06 2.23e+00
C07 N06 N07 4.72e-05
R07 N06 N07 3.01e-01
C08 N07 N08 5.85e-05
R08 N07 N08 4.30e-02
C09 N08 N09 2.57e-05
R09 N08 N09 1.37e-02
L10 N09 N10 9.08e-12
R10 N09 N10 1.89e-01
L11 N10 N11 2.74e-11
R11 N10 N11 9.50e-02
L12 N11 N12 1.06e-10
R12 N11 N12 4.19e-02
C13 N12 N13 2.98e-06
L13 N12 N13 1.17e-11
R13 N12 N13 4.44e-03
C14 N13 N14 7.94e-07
L14 N13 N14 2.21e-11
R14 N13 N14 9.18e-03
C15 N14 Port2 1.57e-11
L15 N14 Port2 2.04e-11
R15 N14 Port2 4.13e+00
.ENDS GRM155B31A334KE14
